US09107415B2
Synthesis of 6-[[3-(2,6-dimethyl-4-prop-1-ynyl-phenyl)-2,4-dioxo-cyclopentyl]methyl]-2-(methylamino)pyridine-3-carbonitrile (Compound A-23)
To a stirred solution of 6-[[3-(2,6-dimethyl-4-prop-1-ynyl-phenyl)-4-methoxy-2-oxo-cyclopent-3-en-1-yl]methyl]-2-(methylamino)pyridine-3-carbonitrile (34 mg, 0.085 mmol) in acetone (1 ml) was added 2M aqueous HCl (1 ml). The reaction was heated at 60°C. for 5 hours and then allowed to cool to room temperature. The reaction was concentrated under reduced pressure and then 2M aqueous K2CO3 solution (2 ml) added to the residue. The pH was adjusted to about 5.5 with saturated NH4Cl solution and then extracted with dichloromethane (3×10 ml). The combined organics were dried over MgSO4, filtered and evaporated to dryness under reduced pressure to give the desired compound (28 mg, 85%) as a brown gum. 1H NMR (400 MHz, CDCl3) 7.71 (d, 1H), 7.09 (s, 2H), 6.63 (d, 1H), 5.60 (br, 1H), 2.96-3.36 (m, 7H), 2.37-2.45 (m, 1H), 2.13 (s, 6H), 2.02 (s, 3H).

reactant | 6-[[3-(2,6-dimethyl-4-prop-1-ynyl-phenyl)-4-methoxy-2-oxo-cyclopent-3-en-1-yl]methyl]-2-(methylamino)pyridine-3-carbonitrile | 0.085 mmol, 34 mg | CC1=C(C(=CC(=C1)C#CC)C)C=1C(C(CC1OC)CC1=CC=C(C(=N1)NC)C#N)=O | C25H25N3O2
reactant | HCl | 2M, 1 ml | Cl | ClH
solvent | acetone | 1 ml | CC(=O)C | C3H6O
product | 6-[[3-(2,6-dimethyl-4-prop-1-ynyl-phenyl)-2,4-dioxo-cyclopentyl]methyl]-2-(methylamino)pyridine-3-carbonitrile | 28 mg, 85% | CC1=C(C(=CC(=C1)C#CC)C)C1C(C(CC1=O)CC1=CC=C(C(=N1)NC)C#N)=O | C24H23N3O2
